datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN1C(=O)C(CC2=CNC3=CC=CC=C23)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.C[C:61]1=[N:10][C:64]2=[C:63](C=CC=C2)[NH:62]1>>CN1C(=O)C(CC2=CNC3=CC=CC=C23)[N:23]([CH:22]=[CH:21][CH:20]([N+:10]2=[C:61](C)[NH:62][C:63]3=[C:64]2C=CC=C3)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10=20;20,21=21,22;22,23=23"
"CC[O:72][C:61]([C:10](=[C:11](C)[O-:12])[C:81](=[O:82])[O:92]CC)=[O:62].F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>CC[O:72][C:61]([C:10]([C:11](C)=[O:12])([C:20]([C:31]1=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1)[C:81](=[O:82])[O:92]CC)=[O:62] 10,11=10,20;12=11,12"
"C[C:63]([NH:12][C:11](C1=CC=CC=C1)=[CH2:10])=[O:64].C[O:33][C:22]([CH:21]=[CH2:20])=[O:23]>>C[O:33][C:22](=[CH:21][CH2:20][CH2:10][C:11](C1=CC=CC=C1)=[NH+:12][C:63](C)=[O:64])[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)[CH:10]=[C:11]=[N-:12])C=C1.[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65>>[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH:20]([CH:10]([C:11]#[N:12])[P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65 10,11=10,20;12=11,12"
"C1C[C:22](=[O:23])[CH:21]=[CH:20]1.C1[C:11]([O-:12])=[N:10][C:61](=[O:62])[O:72]1>>C1C[C:22]([O-:23])=[CH:21][CH:20]1[N:10]1[C:11](=[O:12])C[O:72][C:61]1=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[H:10][CH:11]1[CH:12]=[CH:13][CH:14]=[CH:15][CH:16]=[CH:17]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[CH:11]1=[CH:12][CH:13]=[CH:14][CH:15]=[CH:16][CH+:17]1 10,11=10,20;12,13=11,12;14,15=13,14;16,17=15,16"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[N:12]([C:11]1=[CH:10]CCC1)[C:63]1=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]1>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]1CCC[C:11]1=[N+:12](C)[C:63]1=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]1)[C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]CC)=[O:23].CC[O:72][C:61]([N:10]=[C:11](C)[O-:12])=[O:62]>>CC[O:33][C:22](=[N:21][N:20]([N:10]([C:11](C)=[O:12])[C:61](=[O:62])[O:72]CC)[C:41](=[O:42])[O:43]CC)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:63]([NH:12][C:11](C1=CC=C(Cl)C=C1)=[CH2:10])=[O:64].C[CH+:20][C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C>>C[CH:20]([CH2:10][C:11](C1=CC=C(Cl)C=C1)=[NH+:12][C:63](C)=[O:64])[C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C 10,11=10,20;12=11,12"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1.C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Ge:73](C)(C)C>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1.C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Ge:73](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1.C1C[N+]2(C[C:21]3=[CH:20][C:31]4=[C:32](O[C:22]3=[O:23])[CH:33]=[CH:34][CH:35]=[CH:36]4)CCN1CC2>>C1=CC=C([CH:10]([C:11](=[N+:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[CH:20]2[C:21](C[N+]34CCN(CC3)CC4)=[C:22]([O-:23])O[C:32]3=[C:31]2[CH:36]=[CH:35][CH:34]=[CH:33]3)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1=CC=C([N:10]=C2CCCCC2)C=C1.C[C:34]1=[C:33](F)[CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[C:34]1=[C:33](F)[CH:32]=[C:31]([CH:20]([N+:10](C2=CC=CC=C2)=C2CCCCC2)[C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[O+]#C[W-3:11]1234(C#[O+])(C#[O+])([H:10])C5C1C2C3C54>>CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[O+]#C[W-2:11]1234(C#[O+])(C#[O+])C5C1C2C3C54 10,11=10,20"
"Br[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.CC1=CC(C)=C([N+:61]2=[C-:10][N:71](C3=C(C)C=C(C)C=C3C)CC2)C(C)=C1>>CC1=CC(C)=C([N+:61]2=[C:10]([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]3=[CH:42][CH:43]=[C:44](Br)[CH:45]=[CH:46]3)[N:71](C3=C(C)C=C(C)C=C3C)CC2)C(C)=C1 10=20;20,21=21,22;22,23=23"
